US07662965B2
Synthesis of 3-((2-(pyridin-3-yl)-5,6-dihydropyridin-3(4H)-ylidene)methyl)pyridine trihydrochloride
3-(5-Ammoniopentanoyl)pyridinium chloride (152 mg, 0.60 mmol) was suspended into ethanol (10 mL) in a reaction vessel and treated with concentrated hydrochloric acid (5 drops). Pyridine-3-carboxaldehyde (84 mg, 0.78 mmol) was added and the reaction vessel was sealed. The reaction was heated to 85° C. for 48 hours, then cooled to room temperature. The reaction mixture was concentrated under reduced pressure and treated with saturated NaHCO3(aq), then extracted three times with EtOAc. The EtOAc extracts were washed with brine, combined, dried over Na2SO4, filtered, and concentrated under reduced pressure. The recovered material was then eluted through a 20 gram column of silica gel with a 98:2:0.2 and 96:4:0.4 CH2Cl2:MeOH:NH4OH step gradient (500 mL each step). The recovered material was dissolved into MeOH and treated with 3 eq. of 6 N HCl(aq). This solution was concentrated under reduced pressure and the recovered material dissolved into hot isopropanol. This solution was allowed to cool to room temperature, then diluted with ether which produced a precipitate. The precipitate was recovered by vacuum filtration, washed with fresh isopropanol, then dried under vacuum giving 39 mg (18%) of a brown solid. LC-MS: RT=2.14 min, [M+H]+=250.1.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.60 mmol, 152 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | Pyridine-3-carboxaldehyde | 0.78 mmol, 84 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | HCl | 6 N, 3 eq. | Cl | ClH
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-((2-(pyridin-3-yl)-5,6-dihydropyridin-3(4H)-ylidene)methyl)pyridine trihydrochloride | 39 mg, 18% | Cl.Cl.Cl.N1=CC(=CC=C1)C1=NCCCC1=CC=1C=NC=CC1 | InChI=1S/C16H15N3.3ClH/c1-4-13(11-17-7-1)10-14-5-3-9-19-16(14)15-6-2-8-18-12-15;;;/h1-2,4,6-8,10-12H,3,5,9H2;3*1H
